US04289772
A. Preparation of N-(1-Benzyl-piperid-4-yl)-N-methyltrifluoracetamide hydrochloride
Trifluoracetic anhydride (34.7 g) was added dropwise to a cooled, stirred mixture of 1-benzyl-4-(N-methylamino)piperidine (30 g), triethylamine (41.5 ml) and dry toluene (170 ml). The mixture was then allowed to stand at room temperature overnight, followed by treatment with water (200 ml) and separation of the toluene layer, which was then dried (Na2CO3) and evaporated in vacuo to give an oil. The oil was dissolved in the minimum quantity of ether and acidified with excess ethereral hydrogen chloride to precipitate the hydrochloride salt of N-(1-benzyl-piperid-4-yl)-N-methyltrifluoracetamide (48 g), m.p. 265°-268°, structure verified by i.r. and n.m.r. spectroscopy.

reactant | Trifluoracetic anhydride | 34.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-benzyl-4-(N-methylamino)piperidine | 30 g | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | triethylamine | 41.5 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-Benzyl-piperid-4-yl)-N-methyltrifluoracetamide hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)N(C(C(F)(F)F)=O)C | InChI=1S/C15H19F3N2O.ClH/c1-19(14(21)15(16,17)18)13-7-9-20(10-8-13)11-12-5-3-2-4-6-12;/h2-6,13H,7-11H2,1H3;1H
